US04588732
5-(p-carboxyphenethyl)-imidazo[1,5-a]pyridine (2.66 g) is dissolved in 100 ml of dry tetrahydrofuran at 0° and 20 ml of 1M borane tetrahydrofuran complex in tetrahydrofuran (20 ml) is added dropwise. The reaction mixture is stirred at room temperature for two hours, and 20 ml of acetic acid and 20 ml of methanol are added carefully. The mixture is refluxed for 1 hour, cooled and evaporated, the resulting oil is partitioned between ether and 1N sulfuric acid. The aqueous phase is separated, adjusted to pH=8 and extracted with ethyl acetate the extract is dried over sodium sulfate and evaporated to yield 5-[p-(hydroxymethyl)phenethyl]imidazo[1,5-a]pyridine.

reactant | 5-(p-carboxyphenethyl)-imidazo[1,5-a]pyridine | 2.66 g | C(=O)(O)C1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H14N2O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-[p-(hydroxymethyl)phenethyl]imidazo[1,5-a]pyridine | OCC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H16N2O
